Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
possible aspiration
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is an ___ year old lady, with a history of stroke, 
aspiration, schizoaffective disorder and hypothyroidism, 
admitted from ___ for evaluation of possible 
aspiration pneumonia.  Patient reports that she has been feeling 
well.  Has G tube in from a past stroke.  Nursing home sent 
patient to ED because they thought she had a cough and increased 
lethargy. Patient has indwelling Foley since ___ that was 
changed last week.  Denies abdominal pain, dysuria, diarrhea, 
constipation. Denies chest pain or shortness of breath. Does 
state she has been coughing a lot lately. He does take p.o. She 
denies fevers or chills. She is aox3.
.
In the ED, initial VS were 96.4 82 106/44 32 100% 10L NRB.  
Patient was noted to be lethargic but arousable with crackles at 
right lung base.  Labs were notable for leukocytosis to 16 with 
left shift (N 83%), decreased platelets at 133, and elevated Cr 
1.5/BUN 33 (baseline 1.0/30s).  Chest x-ray showed bibasilar 
atelectasis but no discrete consolidation.  UA was positive for 
>182 WBC and large ___.  EKG was NSR @ 74 bpm, NA/NI with no ST 
changes.  Urine and blood cultures were sent.  The patient was 
given vanc 1g IV x1, cefepime 2g IV x1 and flagyl 500 mg IV x1 
in the ED.  VS on transfer were 98.7, 65, 105/52, 24, 97% on 2L 
NC.
.  
On the floor, patient is comfortable.  Denies any complaints.  
Does not know why she was sent to the hospital.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
# CVA: basal ganglia ___, s/p G tube for nutrition
# Hypothyroidism
# Schizoaffective disorder  
# Multiple lacunar infarcts  
# Left Cataract  
# Cervical spinal stenosis
# Demand ischemia 
 
Social History:
___
Family History:
Brother with MI in ___ or ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 96.8 110/64 72 20 95% RA 
General: Alert, oriented, no acute distress, comfortable  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, G tube in place 
without any erythema or irritation, no pus from site, clean 
gauze over site 
Ext: Warm, well perfused, 2+ pulses, some venous stasis changes 
on lower legs, no edema  
Skin: no rashes 
Neuro: alert and oriented, moving all extremities
.
DISCHARGE PHYSICAL EXAM:
Vitals: 98.7 (feb) 102/48 67 20 94-96%RA
General: Alert, oriented, no acute distress, comfortable  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: CTAB
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, G tube in place with 
minimal erythema, no pus from site, clean gauze over site 
Ext: Warm, well perfused, 2+ pulses, some venous stasis changes 
on lower legs, no edema  
Skin: no rashes 
Neuro: alert and oriented, moving all extremities  
 
Pertinent Results:
ADMISSION LABS:
___ 12:35PM BLOOD WBC-16.1* RBC-4.48 Hgb-12.6 Hct-40.0 
MCV-89 MCH-28.1 MCHC-31.4 RDW-14.4 Plt ___
___ 12:35PM BLOOD Neuts-83* Bands-4 Lymphs-10* Monos-3 
Eos-0 Baso-0 ___ Myelos-0
___ 12:35PM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL
___ 12:35PM BLOOD ___ PTT-22.8* ___
___ 12:35PM BLOOD Glucose-164* UreaN-33* Creat-1.5* Na-138 
K-4.5 Cl-100 HCO3-29 AnGap-14
___ 12:35PM BLOOD Calcium-10.3 Phos-3.6 Mg-2.1
.
RELEVANT LABS:
___ 12:35PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-5.5 Leuks-LG
___ 05:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.5 Leuks-LG
___ 12:35PM URINE RBC-8* WBC->182* Bacteri-NONE Yeast-NONE 
Epi-3 TransE-2
___ 05:30PM URINE RBC-1 WBC-49* Bacteri-FEW Yeast-NONE 
Epi-1
.
DISCHARGE LABS:
___ 05:55AM BLOOD WBC-6.9 RBC-3.99* Hgb-11.2* Hct-36.2 
MCV-91 MCH-28.0 MCHC-31.0 RDW-14.4 Plt ___
___ 05:55AM BLOOD Glucose-153* UreaN-32* Creat-1.1 Na-140 
K-4.3 Cl-103 HCO3-33* AnGap-8
___ 05:55AM BLOOD Calcium-9.7 Phos-2.1* Mg-2.3
.
MICROBIOLOGY:
___: Urine culture: mixed bacterial flora with fecal 
contamination
___: Urine culture: no growth
.
IMAGING:
___ Chest x-ray PA/lat
FINDINGS: Frontal and lateral views of the chest were obtained. 
There are 
relatively low lung volumes and bibasilar atelectasis. No 
discrete focal 
consolidation is seen. There is no large pleural effusion or 
pneumothorax.  Prominence of the pulmonary arteries suggests 
possible pulmonary arterial hypertension. The cardiac silhouette 
is stable. 
.
___ Portable Abdomen, Gastrograffin study
FINDINGS: Single portable supine view of the abdomen shows the 
G-tube to be in the proper position. Contrast is seen entering 
through the tube into the body and pylorus of the stomach. There 
is a nonspecific bowel gas pattern with no evidence of ileus or 
obstruction. No intraperitoneal air is seen.  The imaged lung 
bases are unremarkable. Degenerative changes about the lower 
lumbar spine are present. 
IMPRESSION: Appropriate position of G-tube. 
 
Brief Hospital Course:
Ms. ___ is an ___ year old lady, with a history of stroke, 
aspiration, schizoaffective disorder and hypothyroidism, 
admitted from ___ for evaluation of possible 
aspiration pneumonia, found to have a UTI.  Hospital course 
complicated by ___ and transient hypoxia.
.
.
ACTIVE ISSUES:
# UTI: UA positive with WBCs and large ___, accompanied by 
leukocytosis to 16 with left shift.  Patient was started on 
ceftriaxone for treatment of UTI, and her Foley catheter was 
changed.  Her leukocytosis subsequently resolved.  As her urine 
culture is still pending, she will continue on empiric oral 
treatment with ciprofloxacin for a course of seven days.
.
# ___: Creatinine was initially elevated to 1.5 from baseline 
1.0, and resolved to 1.1 with IVF at the time of discharge.  
FENa was consistent with prerenal azotemia, likely from poor PO 
intake in the setting of UTI.  Foley was changed and was 
functioning well.  
.  
# Hypoxia: Patient transiently desatted to 88% at nighttime, 
requiring supplemental O2.  Etiologies include undiagnosed sleep 
apnea given body habitus, atelectasis, pneumonia, pleural 
effusion and PE.  CXR was unremarkable.  This is most likely a 
combination of possibly sleep apnea with a component of 
atelectasis.  Patient was given an incentive spirometer, 
encouraged to get out of bed to chair and weaned off of 
supplemental oxygen.  She was asymptomatic.
.
.
CHRONIC ISSUES:
# Enteral nutrition: G tube site clean, with gastrograffin study 
showing G tube in place.  Continued TFs with some modification: 
Isosource 1.5 @ 75 cc/hr, cycled every 12 hours, as her home 
regimen was overfeeding.
.  
# Hypothyroidism: continued home dose levothyroxine 
.  
# Schizoaffective disorder: continued home lithium
.
# Past CVA: Continued aspirin and clopidogrel
.  
.
TRANSITIONAL ISSUES:
1.) At the time of discharge, urine culture was still pending.  
Final result returned with no growth.
2.) Please change TFs to Isosource 1.5 @ 75 cc/hr, cycled every 
12 hours, as her home regimen was overfeeding.
3.) Patient is confirmed DNR/DNI.
 
Medications on Admission:
aspirin 81 mg
levothyroxine 50 mcg 
Plavix 75 mg
olanzapine 5 mg
lithium carbonate 150 mg PO in a.m.
lithium carbonate SR 450 mg PO bid
senna
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. olanzapine 2.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
7. lithium carbonate 150 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
8. lithium carbonate 450 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO HS (at bedtime).  
9. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
10. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 6 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to participate in your care here at ___ 
___.  You were admitted because you 
were noted to have decreased energy, and there was a concern for 
aspiration pneumonia.  You were found to have a urinary tract 
infection, which was treated with intravenous and then oral 
antibiotics.  There was no evidence of aspiration pneumonia.  We 
evaluated your G tube and found that it was working well.

Please note, the following changes have been made to your 
medications:
- START Ciprofloxacin 500 mg by mouth twice daily for a duration 
of 6 more days. Last day will be on ___

Please continue all of your other medications as you had before 
this hospitalization.

Wishing you all the best!
 
Followup Instructions:
___